US04268676
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(N-methylpropargylamino)-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
To a solution of 50 mg (0.14 mmol) of mitomycin A in 10 ml of anhydrous methanol was stirred with 150 mg (2 mmol) of N-methylpropargylamine at room temperature. The reaction appeared to be complete in 3 hours, as revealed by TLC. The solvent was removed by evaporation under reduced pressure and the residue was chromatographed using silica-gel as adsorbent. The fraction obtained by eluting the column with ethyl acetate was evaporated under reduced pressure. Recrystallization from a mixture of methylene chloride and hexane gave 20 mg (37% yield) of the desired product as purple-colored crystals having a melting point of 86°-87° C. (decomposing) and providing the following analysis:

reactant | mitomycin A | 0.14 mmol, 50 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | N-methylpropargylamine | 2 mmol, 150 mg | CNCC#C | C4H7N
solvent | methanol | 10 ml | CO | CH4O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(N-methylpropargylamino)-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | 20 mg, 37% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)N(C)CC#C)C)=O)CC1C2N1)OC | InChI=1S/C18H21N3O4.CH3NO2/c1-5-6-20(3)13-9(2)15(23)14-12(16(13)24)10(8-22)18(25-4)17-11(19-17)7-21(14)18;2-1(3)4/h1,10-11,17,19,22H,6-8H2,2-4H3;2H2,(H,3,4)
